US08461167B2
Potential Synthesis of N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-4-methyl-3-(1,6-naphthyridin-8-ylethyl)benzamide
The title compound can be synthesized from 8-ethynyl-1,6-naphthyridine and N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide in a manner similar to that described for Example 1. 8-ethynyl-1,6-naphthyridine is prepared from 8-bromo-1,6-naphthyridine and ethynyltrimethylsilane according to the 2 steps procedure described in Example 1.

reactant | 8-ethynyl-1,6-naphthyridine | C(#C)C=1C=NC=C2C=CC=NC12 | C10H6N2
reactant | N-(3-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)I)=O | C21H20F3IN4O
product | N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-4-methyl-3-(1,6-naphthyridin-8-ylethyl)benzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)CCC=1C=NC=C2C=CC=NC12)=O | C31H29F3N6O
